Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Irregular Heart Rate
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ h/o thyroid cancer s/p thyroidectomy, HL, presents w/ 
palpitation.  

Pt reports that he had PAT as a teenager and was on digoxin when 
he was in his ___ and early ___. He has had no known cardiac 
history otherwise.  

He reports that 6 months ago, he had an episode of palpitation - 
but it was less than an hr. He has a repeat episode of 
palpitation 6 weeks ago that lasted a few hours. For this 
reason, he went to see his doctor in ___. He reportedly had 
echo, stress test, holter monitor as work up so far - but he has 
yet to have f/u appointment to go over the results yet.  

Pt was visiting his son in ___ this weekend. At 7pm on night 
of admission, pt reports feeling palpitation, as well as 
dizziness when he tried to stand up. This happened again when he 
was at this sister-in-law's house. The sister-in-law is an MD, 
who noted that his HR was irreg, and recommended him to go to 
the ED. Pt otherwise denies CP, SOB. no f/c/n/v. no abd pain, 
d/c, GU symptoms.  

He denies taking any ___ medication recently or any medication 
that is not prescribed to him. He is compliant with his thyroid 
medication, the dosage of which has not changed recently.  

In the ED, initial vitals were: 97.3 120 123/87 16 98% RA. EKG: 
afib at 112.Labs were significant for: neg trop x 1. grossly 
normal chem10, hgb 13.3, no leukocytosis, TSH pending. The 
patient was given metoprolol IV 5mg x 2 and diltiazem 20mg IV. 
Initially he only had limited response in his heart rate. His 
rate then subsequently dropped to ___. he became hypotensive 
w SBP in the ___ and had a pre-syncopal episode. He subsequently 
received atropine x2, calcium and glucagon and his heart rates 
improved to ___. Vitals prior to transfer were: 97.7 56 98/60 18 
100% RA. 

 
Past Medical History:
- Thyroid cancer s/p thyroidectomy  
- HL  
- PAT as a teenager  
 
Social History:
___
Family History:
Father had bypass surgery in ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: 97.7 56 98/60 18 100% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.

DISCHARGE PHYSICAL EXAM
PHYSICAL EXAM:  
Vitals: 97.7 124-65 69 18 98%RA 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred. 
 
Pertinent Results:
ADMISSION LABS

___ 06:17AM BLOOD WBC-13.3*# RBC-4.08* Hgb-12.6* Hct-37.0* 
MCV-91 MCH-30.9 MCHC-34.1 RDW-13.4 RDWSD-44.1 Plt ___
___ 06:17AM BLOOD Glucose-91 UreaN-13 Creat-0.8 Na-139 
K-4.4 Cl-105 HCO3-25 AnGap-13
___ 06:17AM BLOOD Calcium-8.0* Phos-2.6* Mg-1.8

PERTINENT LABS

___ 11:44PM BLOOD CK-MB-3 cTropnT-<0.01
___ 11:09PM BLOOD TSH-3.___ h/o prior paroxysmal atrial tachycardia, thyroid cancer s/p 
thyroidectomy, HL, presents w/ palpitations, found to be in 
atrial fibrillation.

# ___ atrial fibrillation: Patient has had 2 prior episodes of 
palpitations and has started workup with outpatient cardiologist 
per patient. Here ECG showed atrial fibrillation with rates 
120s. Patient converted to sinus bradycardia with IV metoprolol 
10 mg and diltiazem 20 mg. TSH was normal. CHADS=0, so 
anticoagulation was deferred. Per overnight discussion with 
outpatient cardiologist, he has already undergone extensive 
workup which has been negative, so further workup deferred here. 
Rate control also deferred as patient with sinus rates in ___. 
He will follow up with his outpatient cardiologist Dr. ___. 


# Bradycardia: Patient with symptomatic bradycardia to ___ after 
receiving IV metoprolol and digoxin. This improved s/p atropine, 
calcium, glucagon and patient with rates in ___ and 
asymptomatic. He was kept on telemetry with pacer pads placed 
though with no further concerns. Likely iatrogenic, no concern 
for sinus dysfunction.

# Thyroid cancer s/p thyroidectomy: Continued home 
levothyroxine. TSH wnl.

# Hyperlipidemia: Continued home atorvastatin.

# CODE STATUS: full, confirmed  
# CONTACT: wife, ___ ___  

# ___ ISSUES:
-Consider increasing ASA to 162 mg for anticoagulation, deferred 
this admission
-Consider rate controlling agents vs flecainide prn, deferred 
this admission
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcitriol 0.25 mcg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Levothyroxine Sodium 175 mcg PO DAILY 

 
Discharge Medications:
1. Atorvastatin 20 mg PO QPM 
2. Calcitriol 0.25 mcg PO DAILY 
3. Levothyroxine Sodium 175 mcg PO DAILY 
4. Aspirin 81 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
Atrial fibrillation

Secondary
Thyroid cancer s/p thyroidectomy
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you had palpitations 
and were found to be in an abnormal rhythm called atrial 
fibrillation. You were given medications to slow your heart 
rate. Your heart converted to a normal rhythm but that was too 
slow and you were given medications to bring it back to a normal 
rate. These medications are called metoprolol and diltiazem.

It is very important that you follow up with your cardiologist 
and primary care physician in ___.

Very best wishes,
Your ___ Team
 
Followup Instructions:
___